US08278317B2
N1,N1-diisopropyl-N5-(2-oxopropyl)-3-phenyl-2-pyridin-3-ylpentanediamide
To a cold (0° C.) suspension of N5-(2-hydroxypropyl)-N1,N1-diisopropyl-3-phenyl-2-pyridin-3-ylpentanediamide (20 mg, 0.047 mmol) in 1 mL dry CH2Cl2 was added solid Dess-Martin periodinane (24 mg, 0.056 mmol), and the reaction was stirred at 0° C. for 3.5 h. The cooling bath was then removed and stirred at room temperature for 1.5 h. More Dess-Martin periodinane was added (two 24 mg portions in 1.5 h interval). The reaction was quenched with saturated aqueous NaHCO3: saturated aqueous Na2S2O3 (1:1 v/v) and partitioned between CH2Cl2 and saturated aqueous NaHCO3. The aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were dried over anhydrous Na2SO4 and concentrated to give a white solid. This material was used directly in the next step.

reactant | N5-(2-hydroxypropyl)-N1,N1-diisopropyl-3-phenyl-2-pyridin-3-ylpentanediamide | 0.047 mmol, 20 mg | OC(CNC(CC(C(C(=O)N(C(C)C)C(C)C)C=1C=NC=CC1)C1=CC=CC=C1)=O)C | C25H35N3O3
reactant | Dess-Martin periodinane | 0.056 mmol, 24 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N1,N1-diisopropyl-N5-(2-oxopropyl)-3-phenyl-2-pyridin-3-ylpentanediamide | C(C)(C)N(C(C(C(CC(=O)NCC(C)=O)C1=CC=CC=C1)C=1C=NC=CC1)=O)C(C)C | C25H33N3O3
